US04016259
Thr-HyPro-Arg-Lys
Arg replaced with Lys to produce;

reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Thr HyPro Arg-Lys | N[C@@H]([C@H](O)C)C(=O)O.C1[C@H](CN[C@@H]1C(=O)O)O.C(CCN)C[C@@H](C(=O)O)NC(=O)[C@H](CCCN=C(N)N)N | InChI=1S/C12H26N6O3.C5H9NO3.C4H9NO3/c13-6-2-1-5-9(11(20)21)18-10(19)8(14)4-3-7-17-12(15)16;7-3-1-4(5(8)9)6-2-3;1-2(6)3(5)4(7)8/h8-9H,1-7,13-14H2,(H,18,19)(H,20,21)(H4,15,16,17);3-4,6-7H,1-2H2,(H,8,9);2-3,6H,5H2,1H3,(H,7,8)/t8-,9-;3-,4+;2-,3+/m011/s1
